US09233979B2
To a 8 mL vial charged with imidazole (17.3 mg, 0.26 mmol) and tert-butyl(6-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate (26.5 mg, 0.051 mmol) in DCM (1 ml) was added 1,1′-carbonyldiimidazole (25 mg, 0.153 mmol). The reaction mixture was stirred at room temperature for 5 h, leading to a clear yellow solution. A solution of 1-(pyridin-2-yl)propan-1-amine, 2HC1 (21.33 mg, 0.102 mmol) and DIEA (0.045 ml, 0.255 mmol) in DMF (1 ml) was added. The vial was capped and the contents stirred at room temperature for 16 h. The reaction mixture was concentrated and the resulting residue re-dissolved in TFA (1 ml) and stirred at room temperature for 20 minutes. Triethylsilane (0.008 ml, 0.051 mmol) was added drop wise, and the reaction mixture stirred for an additional 5 minutes. The mixture was concentrated, re-dissolved in DMSO (1.5 mL) and submitted for purification by mass-triggered preparative HPLC to afford 1-(3-(ethylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-(pyridin-2-yl)propyl)urea (4.1 mg, 0.012 mmol, 23.69% yield) as a white solid. MS ESI calc'd. For C17H21N7O [M+H]+ 340. found 340. 1H NMR (ppm, 600 MHz, DMSO): δ 8.99 (s, 1H); 8.57 (s, 1H); 8.52 (d, J=4.8 Hz, 1H); 7.73 (td, J=7.7, 1.8 Hz, 1H); 7.31 (d, J=7.8 Hz, 1H); 7.21-7.24 (m, 2H); 4.76 (q, J=7.2 Hz, 1H); 3.19-3.23 (m, 2H); 1.77-1.82 (m, 1H); 1.69-1.74 (m, 1H); 1.17 (t, J=7.2 Hz, 3H); 0.80 (t, J=7.4 Hz, 3H).

reactant | imidazole | 0.26 mmol, 17.3 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyl(6-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate | 0.051 mmol, 26.5 mg | C(C)(C)(C)OC(N(CC)C1=NN(C2=C1C=NC(=C2)N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C32H33N5O2
reactant | 1,1′-carbonyldiimidazole | 0.153 mmol, 25 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | DIEA | 0.255 mmol, 0.045 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Triethylsilane | 0.051 mmol, 0.008 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 1-(3-(ethylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-(pyridin-2-yl)propyl)urea | 0.012 mmol, 4.1 mg, 23.69% yield | C(C)NC1=NNC2=C1C=NC(=C2)NC(=O)NC(CC)C2=NC=CC=C2 | C17H21N7O
